US07199135B2
To a solution of (4S)-3-[(4-fluorophenyl)acetyl]-4-isopropyl-1,3-oxazolidin-2-one (2.81 g, 10.6 mmol) in dry THF (40 mL) at −78° C. under argon, was added dropwise 1.0M solution of NaHMDS in THF (11.7 mL, 11.7 mmol) over a period of 10 min. After stirring at −78° C. for 1 h, Mel (3.30 mL, 53.0 mmol) was added. The resulting reaction mixture was stirred at −78° C. for 1 h and −40° C. for 2 h, quenched with HOAc (32 mmol) in ether (20 mL), filtered over celite. The filtrate was concentrated in vacuo and the residue was dissolved in CH2Cl2 (100 mL) and washed with H2O following by brine, dried over MgSO4, filtered and concentrated in vacuo. The crude material was purified by flash chromatography (5%–10% EtOAc in hexane) to give 2.40 g (8.60 mmol, 81%) of (4S)-3-[(2S)-2-(4-fluorophenyl)propanoyl]-4-isopropyl-1,3-oxazolidin-2-one: 1H NMR (400 MHz, CDCl3) δ 7.34–7.31 (m, 2H), 7.02–6.96 (m, 2H), 5.13 (q, 1H, J=7.7 Hz), 4.38–4.33 (m, 1H), 4.18–4.13 (m, 2H), 2.48–2.37 (m, 1H), 1.49 (d, 3H, J=7.3 Hz), 0.91 (apparent t, 6H, J=6.9 Hz); ESMS m/e: 280.2 (M+H)+.

reactant | (4S)-3-[(4-fluorophenyl)acetyl]-4-isopropyl-1,3-oxazolidin-2-one | 10.6 mmol, 2.81 g | FC1=CC=C(C=C1)CC(=O)N1C(OC[C@@H]1C(C)C)=O | C14H16FNO3
reactant | NaHMDS | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | HOAc | 32 mmol | CC(=O)O | C2H4O2
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | ether | 20 mL | CCOCC | C4H10O
solvent | THF | 11.7 mmol, 11.7 mL | C1CCOC1 | C4H8O
product | (4S)-3-[(2S)-2-(4-fluorophenyl)propanoyl]-4-isopropyl-1,3-oxazolidin-2-one | 8.60 mmol, 2.40 g, 81% | FC1=CC=C(C=C1)[C@@H](C(=O)N1C(OC[C@@H]1C(C)C)=O)C | C15H18FNO3
